US05292760
A stirred solution of 3.0 g of 2-amino-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine in 50 ml of N,N-dimethylformamide was treated with a solution of 2.6 g of N-bromosuccinimide in 50 ml of N,N-dimethylformamide and allowed to stand overnight at room temperature. Evaporation of the volatiles afforded an oil which was purified by HPLC (Water's Associates Prep LC/System 500, silica gel, elution with methanol). The resultant oil was dissolved in diethyl ether, filtered and concentrated. Trituration with diethyl ether afforded 1.2 g of 2-amino-5-bromo-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine, mp 72.5°-74° C.

reactant | 2-amino-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine | 3.0 g | NC1=C(C=CC=C1)CC(NC)C1=C(SC=C1)C | C14H18N2S
reactant | N-bromosuccinimide | 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-bromo-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine | 1.2 g | NC1=C(C=C(C=C1)Br)CC(NC)C1=C(SC=C1)C | C14H17BrN2S
